Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ h/o crohn's disease on pentasa, prostate cancer who presents 
with generalized low abdominal pain over the past week.  He 
describes post-parandial pain that occurs 3hrs after meals and 
has increased in frequency over the past 24hrs.  His PCP's 
office referred him to the ED where he had normal vitals and a 
WBC of 12.4.  He received IV cipro in the ED.

At his worst his abdominal pain was ___.  Currently his pain is 
___.  He has not had fever/chills, nausea/vomitting, diarrhea, 
tenesmus, or bloody stools.  He has had unintentional weight 
loss down to 121 lbs from 137 in ___.  He has less 
appetite and has had fewer stools down to once a day that remain 
formed since he has eaten less.

13pt review as per above and negative for cough, chest pain, 
SOB, new rash, new back pain or weakness
 
Past Medical History:
#Crohn's disease
#Prostate Cancer, plans for radical prostatectomy next month
 
Social History:
___
Family History:
pt unsure if h.o IBD
 
Physical Exam:
afebrile, 120s/60s, 70s
thin, cacechtic male with visible iliac bones, and spinous 
process
no distress, aox3, fluent speech, no focal neuro deficits
clear breath sounds
regular s1 and s2
slight abd pain lateral to umbilicus, L side
rectal exam: no pain or external fistulas, no melena, minimally 
positive guaiac on card
no rebound or guarding
no peripheral edema
slight hyperpigmentation L anterior shin

 
Pertinent Results:
___ 06:15AM BLOOD WBC-10.5 RBC-4.35* Hgb-12.9* Hct-37.9* 
MCV-87 MCH-29.7 MCHC-34.0 RDW-12.6 Plt ___
___ 06:30AM BLOOD WBC-10.4 RBC-4.31* Hgb-12.7* Hct-37.7* 
MCV-88 MCH-29.4 MCHC-33.6 RDW-12.4 Plt ___
___ 06:40AM BLOOD WBC-9.3 RBC-3.94* Hgb-11.7* Hct-34.5* 
MCV-88 MCH-29.7 MCHC-33.9 RDW-12.5 Plt ___
___ 06:00AM BLOOD WBC-10.0 RBC-4.01* Hgb-11.9* Hct-35.2* 
MCV-88 MCH-29.7 MCHC-33.9 RDW-12.5 Plt ___
___ 04:05PM BLOOD WBC-12.4* RBC-4.59* Hgb-13.6* Hct-39.0* 
MCV-85# MCH-29.6 MCHC-34.7 RDW-12.6 Plt ___
___ 04:05PM BLOOD Neuts-88.3* Lymphs-5.8* Monos-5.3 Eos-0.2 
Baso-0.4
___ 04:05PM BLOOD ___ PTT-36.4 ___
___ 06:00AM BLOOD ESR-8
___ 06:15AM BLOOD Glucose-89 UreaN-5* Creat-0.6 Na-136 
K-4.3 Cl-99 HCO3-31 AnGap-10
___ 06:30AM BLOOD Glucose-103* UreaN-4* Creat-0.5 Na-135 
K-4.1 Cl-99 HCO3-29 AnGap-11
___ 06:40AM BLOOD Glucose-83 UreaN-5* Creat-0.5 Na-136 
K-3.7 Cl-98 HCO3-29 AnGap-13
___ 06:00AM BLOOD Glucose-62* UreaN-10 Creat-0.5 Na-136 
K-3.8 Cl-97 HCO3-29 AnGap-14
___ 04:05PM BLOOD Glucose-102* UreaN-15 Creat-0.7 Na-139 
K-3.7 Cl-98 HCO3-28 AnGap-17
___ 04:05PM BLOOD ALT-20 AST-24 AlkPhos-49 TotBili-0.3
___ 04:05PM BLOOD Lipase-20
___ 06:15AM BLOOD Phos-3.5 Mg-2.0
___ 06:30AM BLOOD Phos-3.3 Mg-1.8
___ 06:40AM BLOOD Calcium-8.4 Phos-2.7 Mg-1.7
___ 06:00AM BLOOD Iron-43*
___ 04:05PM BLOOD Albumin-3.9
___ 06:00AM BLOOD calTIBC-170* VitB12-408 Ferritn-664* 
TRF-131*
___ 06:40AM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE
___ 06:00AM BLOOD CRP-55.3* PSA-3.5
___ 06:40AM BLOOD TPMT GENOTYPE-PND
___ 06:40AM BLOOD THIOPURINE METHYLTRANSFERASE (TPMT), 
ERYTHROCYTES-PND
.
___ MRE:
IMPRESSION:  
1.  Long segment of distal ileum demonstrating wall thickening 
and hyperemia, compatible with acute-on-chronic Crohn's disease, 
progressed since ___, with new bowel dilation proximal 
to this lesion, measuring up to 4 cm. There is progression of 
oral contrast beyond the transition point at the right 
mid-abdomen (901:68, 6:5).  
2.  Multiple skip lesions with active inflammation and wall 
thickening, 
consistent with active Crohn's disease.  Bowel between the skip 
lesions are also mildly dilated.   
3.  Right perianal fistula or sinus tract is incompletely seen, 
and likely present on ___.  Correlate with symptoms.  
If further evaluation is desired, dedicated MR pelvis with 
perianal fistula protocol could be considered 

 
Brief Hospital Course:
___ with h/o crohn's disease on pentasa, prostate cancer who 
presented with post-prandial abdominal pain on background of 
gradual anorexia and weight loss. 
 
#acute on chronic Crohn's disease.  
#Abdominal Pain: Initially considered a wide differential 
including PUD, gastritis, IBD flare. However, elevated CRP and 
MRE findings (skip lesions etc) confirmed acute on chronic 
Crohns disease. Hepatitis serologies as well as PPD (read 
___ negative. TPMT was sent and is PENDING at the time of 
discharge. The GI service was consulted and initially 
recommended bowel rest, IVF and IV steroids (20mg solumedrol 
q8hrs). ___ symptoms improved on this regimen and his diet was 
gradually advanced to a regular low residue diet. OF note, he 
was evaluated by nutrition to give education on a low residue 
diet and he was encouraged to drink boost or ensure TID given 
his weight loss. Pt was continued on pentasa. Upon discharge, 
___ IV steroids were discontinued and he was started on 9mg of 
budesonide to take daily at least until his outpatient GI follow 
up. GI may consider starting ___ if need be in the outpatient 
setting. If steroids will be prolonged, can consider starting 
calcium, vitamin D and bactrim for pcp ___. He was continued on 
mesalamine. 
.  
#anemia-no signs of acute bleeding. LIkely due to anemia of 
chronic disease per labs. Remained stable during admission. Labs 
revealed anemia of chronic disease. 
.  
#Weight loss:  
Pt reports has been over many years. Pt does not know how much 
weight he has lost and has not kept track of this. Considered 
both GI causes as well as known prostate cancer. However, pt has 
localized prostate ca per urology notation and this is more 
likely due to known active Crohn's disease. Nutrition was 
consulted for education and also recommended boost TID. 
.
#Prostate Cancer: PSA 3.5 during admission. Pt believed to have 
localized prostate ca and is already scheduled for an outpatient 
radical prostatectomy. Pt expressed concern about his GI 
treatment requiring steroids. The GI service has informed the 
urology service that pt will need to be on PO budesonide for at 
least 3 week's time pending his reevaluation with GI. In 
addition, other immunosuppressive agents may be added if 
indicated. The GI service does not feel that there needs to be a 
delay in surgery due to the steriods. However, Dr. ___ 
___ GI and Dr. ___ urologist should continue to 
discuss the best plan of action for the patient in terms of his 
IBD treatment and upcoming surgery.
.
FEN: regular low residue diet  
dvt ppx: heparin SC during admission.  
code: FULL  
.
Transitional care:
1.continued monitoring of weight loss
___ GI f/u to discuss any further options, additions, or 
changes in current regimen. Pt to continue budesonide at least 
until ___ f/u
3.urology follow up for radical prostatectomy already arranged. 
GI and urology will need to continue to discuss the optimal 
timing for surgery for this patient.
4. f/u pending labs
___ 06:40    TPMT GENOTYPE PND 
___ 06:40    THIOPURINE METHYLTRANSFERASE (TPMT), 
ERYTHROCYTES PND 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mesalamine ___ mg PO BID 

 
Discharge Medications:
1. Mesalamine ___ mg PO BID 
2. Budesonide 9 mg PO DAILY 
RX *budesonide 3 mg 9 mg by mouth take 9mg (3 pills ) daily Disp 
#*90 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Crohn's flare 
. 
prostate cancer 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for evaluation of abdominal pain and diarrhea 
and were found to have a Crohn's flare. For this, you were 
initially given bowel rest and treated with IV steroids. Your 
symptoms improved and you were able to tolerate a regular low 
residue diet by the time of discharge. You were started on a new 
medication called budesonide (steroid) which you will need to 
continue to take until you discuss this further with your 
gastroenterologist Dr. ___. You also had a "PPD" a test for 
tuberculosis which returned negative.  You should also drink 
ensure or boost at home with meals to increase your caloric 
intake.
 
Followup Instructions:
___